US09212165B2
Step 3: tert-Butyl 5-(hydroxymethyl)bicyclo[3.2.1]octan-1-ylcarbamate (9)
To a solution of methyl 5-(tert-butoxycarbonylamino)bicyclo[3.2.1]octane-1-carboxylate (7.8 g, 27.6 mmol) in THF (65 mL) was added LiBH4 (2.0 M in THF, 28 mL, 56.0 mmol) dropwise at 0° C. under N2. The solution was warmed up to room temperature gradually and stirred overnight. The reaction mixture was quenched with Sat. NH4Cl and extracted with ethyl acetate (3×150 mL). The combined organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford 7.0 g (90%) of the crude title compound, tert-Butyl 5-(hydroxymethyl)bicyclo[3.2.1]octan-1-ylcarbamate, as colorless oil, which was used in the next step without further purification. ESI-MS m/z: 200 (M-55)+.

reactant | methyl 5-(tert-butoxycarbonylamino)bicyclo[3.2.1]octane-1-carboxylate | 27.6 mmol, 7.8 g | C(C)(C)(C)OC(=O)NC12CCCC(CC1)(C2)C(=O)OC | C15H25NO4
reactant | LiBH4 | 56.0 mmol, 2.0 M, 28 mL | [Li+].[BH4-]
solvent | THF | 65 mL | C1CCOC1 | C4H8O
product | tert-Butyl 5-(hydroxymethyl)bicyclo[3.2.1]octan-1-ylcarbamate | 7.0 g, 90% | OCC12CCCC(CC1)(C2)NC(OC(C)(C)C)=O | C14H25NO3
